US04479885
Using 1-(Trans-4'-n-propylcyclohexyl)-4-(p-n-butoxyphenyl)-1,3-butadiene and fumaronitrile, 3-(trans-4'-n-propylcyclohexyl)-6-(p-n-butoxyphenyl)phthalonitrile was obtained by the same method as in Example 1. m.p. was 115° C.

reactant | 1-(Trans-4'-n-propylcyclohexyl)-4-(p-n-butoxyphenyl)-1,3-butadiene | C(CC)[C@@H]1CC[C@H](CC1)C=CC=CC1=CC=C(C=C1)OCCCC | C23H34O
reactant | fumaronitrile | C(\C=C\C#N)#N | C4H2N2
product | 3-(trans-4'-n-propylcyclohexyl)-6-(p-n-butoxyphenyl)phthalonitrile | C(CC)[C@@H]1CC[C@H](CC1)C1=C(C(C#N)=C(C=C1)C1=CC=C(C=C1)OCCCC)C#N | C27H32N2O
